US07875645B2
To a solution of 1.74 ml (4.7 mmol; ˜21% solution in ethanol) sodium ethanolate in 18 ml dry ethanol were added 600 mg (4.7 mmol) 3,5-heptanedione and stirred at ambient temperature for 30 min. Then a solution of 1-benzyl-2-chloromethyl-1H-imidazole (prepared from 1.081 g (4.5 mmol) 1-benzyl-2-chloromethyl-1H-imidazole hydrochloride in 7 ml ethanol and 1.74 ml (5 mmol; ˜21% solution in ethanol) sodium ethanolate) was added together with 30 mg potassium iodide. The mixture was heated to 50° C. for 10 min and then immediately cooled to ambient temperature and concentrated under reduced pressure at max. 30° C. Purification by flash-chromatography on silica gel with heptane/ethyl acetate 1:1 as eluent provided 423 mg 4-(1-benzyl-1H-imidazol-2-ylmethyl)-heptane-3,5-dione as light brown oil: MS (ISP): 299.2 ((M+H)+.).

reactant | sodium ethanolate | 4.7 mmol, 1.74 ml | C(C)[O-].[Na+]
reactant | 3,5-heptanedione | 4.7 mmol, 600 mg | CCC(CC(CC)=O)=O | C7H12O2
reactant | 1-benzyl-2-chloromethyl-1H-imidazole | 4.5 mmol, 7 ml, 1.081 g | C(C1=CC=CC=C1)N1C(=NC=C1)CCl | C11H11ClN2
reactant | 1-benzyl-2-chloromethyl-1H-imidazole hydrochloride | 4.5 mmol | Cl.C(C1=CC=CC=C1)N1C(=NC=C1)CCl
reactant | sodium ethanolate | 5 mmol | C(C)[O-].[Na+]
reactant | potassium iodide | 30 mg | [I-].[K+]
solvent | ethanol | 18 ml | C(C)O | C2H6O
product | 4-(1-benzyl-1H-imidazol-2-ylmethyl)-heptane-3,5-dione | 423 mg | C(C1=CC=CC=C1)N1C(=NC=C1)CC(C(CC)=O)C(CC)=O | C18H22N2O2
